US04853389
Step (5) Preparation of 4-[(3-Methylphenyl)amino]-2-(methylthio)-5-pyrimidinesulfonamide
N-(1,1-Dimethylethyl)-4-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinesulfonamide (200 mg, 0.55 mmol) was dissolved in trifluoroacetic acid (TFA) (15 mL) and refluxed for 1 hour. The TFA was removed under reduced pressure to yield a crude solid which was crystallized from ethanol and water to yield 170 mg (0.55 mmol, 100%) of white needles, m.p. 183.5°-184.5° C.

reactant | N-(1,1-Dimethylethyl)-4-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinesulfonamide | 0.55 mmol, 200 mg | CC(C)(C)NS(=O)(=O)C=1C(=NC(=NC1)SC)NC1=CC(=CC=C1)C | C16H22N4O2S2
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[(3-Methylphenyl)amino]-2-(methylthio)-5-pyrimidinesulfonamide | 0.55 mmol, 170 mg, 100% | CC=1C=C(C=CC1)NC1=NC(=NC=C1S(=O)(=O)N)SC | C12H14N4O2S2
